US09034866B2
9-Bromo-8-fluoro-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide (0.25 g) was reacted with 1-ethynylcyclopentanol similar to as described in Procedure E to afford 157 mg of 8-fluoro-9-[2-(1-hydroxycyclopentyl)ethynyl]-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide following reverse phase hplc purification. MS (Q1) 338 (M)+. 1H NMR (400 MHz, DMSO) δ 8.65 (d, J=8.6 Hz, 1H), 8.45 (s, 1H), 7.84 (s, 1H), 7.03 (t, J=25.1 Hz, 1H), 5.29 (d, J=38.1 Hz, 1H), 4.38 (t, J=4.8 Hz, 2H), 3.40 (t, J=4.8 Hz, 2H), 2.02-1.86 (m, 4H), 1.85-1.57 (m, 5H).

reactant | 9-Bromo-8-fluoro-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide | 0.25 g | BrC=1C(=CC2=C(C1)C=1N=C(SC1CCO2)C(=O)N)F | C12H8BrFN2O2S
reactant | 1-ethynylcyclopentanol | C(#C)C1(CCCC1)O | C7H10O
product | 8-fluoro-9-[2-(1-hydroxycyclopentyl)ethynyl]-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide | 157 mg | FC1=CC2=C(C=C1C#CC1(CCCC1)O)C=1N=C(SC1CCO2)C(=O)N | C19H17FN2O3S
